US07196103B2
(i) 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid methyl ester
To a solution of 500 mg 1H-Indole-2,5-dicarboxylic acid 5-methyl ester and 491 mg 1-Isopropyl-piperidin-4-ylamine hydrochloride in 20 ml absolute DMF, 746 mg TOTU and 1.1 ml DIPEA were added and the mixture was stirred at RT for 2 h. The solvent was removed in vacuo and the residue was directly purified by chromatography on silica gel eluting with a gradient of DCM/MeOH 100%->60%. The fractions containing the product were combined and the solvent evaporated under reduced ressure. Yield: 0.73 g.

reactant | 1H-Indole-2,5-dicarboxylic acid 5-methyl ester | 500 mg | COC(=O)C=1C=C2C=C(NC2=CC1)C(=O)O | C11H9NO4
reactant | 1-Isopropyl-piperidin-4-ylamine hydrochloride | 491 mg | Cl.C(C)(C)N1CCC(CC1)N
reactant | TOTU | 746 mg | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | DIPEA | 1.1 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(NC2=CC1)C(NC1CCN(CC1)C(C)C)=O | C19H25N3O3
